US05792763
N-[3-(1-methylpiperidin-4-yl)benzofur-5-yl]methanesulfonamide hydrochloride
A mixture of 0.018 gm (0.07 mMol) 5-amino-3-(1-methylpiperidin-4-yl)benzofuran, 16.2 μL (0.21 mMol) methanesulfonyl chloride, and 0.100 gm (4 equivalents) of polymer bound piperidine in 1.5 mL dichloromethane. The reaction mixture was agitated for 24 hours at room temperature. The reaction mixture was then loaded onto a VARIAN BOND ELUT SCX™ (Varian, Harbor City, Calif., U.S.A.) ion exchange column, eluting first with several volumes of methanol and then with 10 mL 2M ammonia in methanol. Fractions containing product were combined and concentrated under reduced pressure. The residue was dissolved in methanolic hydrogen chloride and then the solvent removed. This step was repeated three times to provide 0.0061 gm of the title compound.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)benzofuran | 0.07 mMol, 0.018 gm | NC=1C=CC2=C(C(=CO2)C2CCN(CC2)C)C1 | C14H18N2O
reactant | methanesulfonyl chloride | 0.21 mMol, 16.2 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-[3-(1-methylpiperidin-4-yl)benzofur-5-yl]methanesulfonamide hydrochloride | 0.0061 gm | Cl.CN1CCC(CC1)C1=COC2=C1C=C(C=C2)NS(=O)(=O)C | InChI=1S/C15H20N2O3S.ClH/c1-17-7-5-11(6-8-17)14-10-20-15-4-3-12(9-13(14)15)16-21(2,18)19;/h3-4,9-11,16H,5-8H2,1-2H3;1H
